US04548948
Preparation of (4-chlorophenylthio)propanone (D21)
A stirred solution of 4-chlorothiophenol (47.1 g, 0.326 mole) in sodium hydroxide solution (14.3 g, 0.358 mole in 750 ml water) was treated dropwise over 20 minutes with freshly distilled chloroacetone (28.5 ml, 0.358 mole) and the resulting mixture was stirred for a further 30 minutes at room temperature. The mixture was extracted with ether (3×200 ml) and the organic solution then washed with 2% sodium hydroxide solution (2×200 ml) and water (2×200 ml), dried (MgSO4) and evaporated to dryness to give a quantitative yield of the title compound as a pale yellow solid. A small sample was recrystallized from pentane to yield a colourless crystalline solid m.p. 37°-38° C.

reactant | 4-chlorothiophenol | 0.326 mole, 47.1 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydroxide | 0.358 mole, 750 ml, 14.3 g | [OH-].[Na+]
reactant | chloroacetone | 0.358 mole, 28.5 ml | ClCC(C)=O | C3H5ClO
product | (4-chlorophenylthio)propanone | quantitative yield | ClC1=CC=C(C=C1)SCC(C)=O | C9H9ClOS
